US08202885B2
BB35. 3-[4-Methyl-5-phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid
Prepared in analogy to the methods described for 3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid replacing benzil with 1-phenyl-propane-1,2-dione.

reactant | 3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid | C1(=CC=CC=C1)C=1N=C(N(C1C1=CC=CC=C1)COCC[Si](C)(C)C)CCC(=O)O | C24H30N2O3Si
reactant | 1-phenyl-propane-1,2-dione | C1(=CC=CC=C1)C(C(C)=O)=O | C9H8O2
product | 3-[4-Methyl-5-phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid | CC=1N=C(N(C1C1=CC=CC=C1)COCC[Si](C)(C)C)CCC(=O)O | C19H28N2O3Si
